US07723538B2
4-[4-Chloro-3-(3-trifluoromethoxy-benzenesulfonylamino)-benzoylamino]-benzoic acid, MS (ISP): m/e=513.1 (M−H), was prepared in analogy to example 21, steps A to D. Step C was performed using 3-trifluoromethoxy-benzenesulfonyl chloride and yielded 4-[4-chloro-3-(3-trifluoromethoxy-benzenesulfonylamino)-benzoylamino]-benzoic acid ethyl ester, which was hydrolyzed in step D.

reactant | 4-[4-Chloro-3-(3-trifluoromethoxy-benzenesulfonylamino)-benzoylamino]-benzoic acid | ClC1=C(C=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C=C1)NS(=O)(=O)C1=CC(=CC=C1)OC(F)(F)F | C21H14ClF3N2O6S
reactant | 3-trifluoromethoxy-benzenesulfonyl chloride | FC(OC=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O3S
product | 4-[4-chloro-3-(3-trifluoromethoxy-benzenesulfonylamino)-benzoylamino]-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC(C1=CC(=C(C=C1)Cl)NS(=O)(=O)C1=CC(=CC=C1)OC(F)(F)F)=O)=O | C23H18ClF3N2O6S
